US07553979B2
To a solution of 5-methyl-dihydro-furan-2-one (0.2 m L, 2.1 m mol) in dichloromethane (10 mL) was added a mixture of AlCl3 (3.1 mL, 6.2 mmol) and methoxylamine hydrochloride (0.6 g, 6.2 mmol) in dichloromethane (20 mL). After 1.5 hours, the reaction was cooled to 0° C. and a saturated sodium bicarbonate solution (10 mL) was added slowly. Extraction and concentration afforded 4-hydroxy-pentanoic acid methoxy-methyl-amide as a clear oil (184 mg).

reactant | 5-methyl-dihydro-furan-2-one | CC1CCC(O1)=O | C5H8O2
reactant | AlCl3 | 6.2 mmol, 3.1 mL | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | methoxylamine hydrochloride | 6.2 mmol, 0.6 g | Cl.O(C)N
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-hydroxy-pentanoic acid methoxy-methyl-amide | 184 mg | CON(C(CCC(C)O)=O)C | C7H15NO3
